US05578550
a) Pivaloylaminoacetonitrile
The compound was prepared according to Example 1 a) from 36.17 g pivaloylchloride and 27.76 g aminoacetonitrile hydrochloride

reactant | pivaloylchloride | 36.17 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | aminoacetonitrile hydrochloride | 27.76 g | Cl.NCC#N
product | Pivaloylaminoacetonitrile | C(C(C)(C)C)(=O)NCC#N | C7H12N2O
